US03950393
8.1 gm of dimethylamine were added to 21 gm of 5-acetyl-2-acetylamino-benzyl bromide in 500 ml of chloroform, and the mixture was stirred for 30 minutes. As soon as the exothermic reaction began, the undissolved substance dissolved. Subsequently, the reaction solution was extracted three times with water and twice with 2 N hydrochloric acid. The hydrochloric acid phase was extracted with chloroform, made alkaline with 2 N ammonia and again extracted twice with chloroform. The organic phase was evaporated, the residue was purified column-chromatographically on silicagel with ethyl acetate, and the corresponding fractions were combined and evaporated to dryness, whereby 5-acetyl-2-acetylamino-N,N-dimethyl benzylamine was obtained in crystalline form, having a melting point of 68°-72°C.

reactant | dimethylamine | 8.1 gm | CNC | C2H7N
reactant | 5-acetyl-2-acetylamino-benzyl bromide | 21 gm | C(C)(=O)C=1C=CC(=C(CBr)C1)NC(C)=O | C11H12BrNO2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-acetyl-2-acetylamino-N,N-dimethyl benzylamine | C(C)(=O)C=1C=CC(=C(CN(C)C)C1)NC(C)=O | C13H18N2O2
